US05563150
Step 3: (E)-3-(3-Fluoro-4-[2-phenylethenyl]-1,2,5,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine
1-Chloroethyl chloroformate (0.048 ml, 0.44 mmol) was added dropwise to a solution of (E)-1-benzyl-3-fluoro-4-(2-phenylethenyl)-1,2,5,6-tetrahydropyridine (0.1002 g, 0.342 mmol) in dichloromethane (2 ml) at -8° C. The mixture was stirred at -8° C. to 0° C. for 1 hour, concentrated in vacuo, the residue redissolved in methanol (5 ml) and heated at reflux for fifteen minutes. The reaction mixture was evaporated and the residue partitioned between saturated aqueous potassium carbonate (25 ml) and dichloromethane (2×25 ml). The organic extracts were washed with brine (25 ml), combined, dried (MgSO4) and concentrated in vacuo. The residue and 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine (0.0606 g, 0.346 mmol) were suspended in toluene (5 ml) and the mixture stirred at reflux for 12 hours. The toluene was evaporated and the product purified by flash chromatography, eluting with dichloromethane/methanol/ammonia (120:8:1), to afford the title compound (0.0585 g, 51%). Recrystalisation from methanol gave buff needles, m.p. 218°-221° C. (dec.); δH (DMSO-d6) 2.35 (2H, m, tetrahydropyridinyl CH2), 2.64 (2H, m, tetrahydropyridinyl CH2), 3.16 (2H, br s, tetrahydropyridinyl CH2), 3.80 (2H, s, ArCH2N), 6.52 (1H, d, J 16.4Hz, CH=CHPh), 7.05 (1H, dd, J 7.8, 4.7Hz, 5-H), 7.14 (1H, d, J 16.4Hz, CH=CHPh), 7.23 (1H, m, ArH), 7.32 (2H, m, ArH), 7.42 (1H, s, 2-H), 7.48 (2H, m, ArH), 8.05 (1H, dd, J 7.8, 1.4Hz, 4-H), 8.20 (1H, dd, J 4.7, 1.4Hz, 6-H) and 11.51 (1H, br s, NH); m/z (CI+, NH3) 334 (M+1)+.

reactant | 1-Chloroethyl chloroformate | 0.44 mmol, 0.048 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | (E)-1-benzyl-3-fluoro-4-(2-phenylethenyl)-1,2,5,6-tetrahydropyridine | 0.342 mmol, 0.1002 g | C(C1=CC=CC=C1)N1CC(=C(CC1)\C=C\C1=CC=CC=C1)F | C20H20FN
reactant | 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine | 0.346 mmol, 0.0606 g | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(3-Fluoro-4-[2-phenylethenyl]-1,2,5,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 0.0585 g, 51% | FC=1CN(CCC1\C=C\C1=CC=CC=C1)CC1=CNC2=NC=CC=C21 | C21H20FN3
